US07144901B2
(3S)-3-(t-butoxycarbonylamino)-5-methylhexanenitrile
To a solution of the compound prepared in Reference Example 3 (2.04 g) in N,N-dimethylformamide (15 ml) were added imidazole (1.26 g) and t-butyldimethylsilylchloride (2.79 g) and the mixture was stirred for 3 hours at room temperature. To the reaction mixture was added water and was extracted with ethyl acetate. The organic layer was washed with water, saturated aqueous solution of sodium chloride and dried and concentrated. The residue was purified by column chromatography on silica gel (n-hexane:ethyl acetate=19:1) to give the title compound (3.06 g) having the following physical data.

reactant | imidazole | 1.26 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilylchloride | 2.79 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (3S)-3-(t-butoxycarbonylamino)-5-methylhexanenitrile | 3.06 g | C(C)(C)(C)OC(=O)N[C@H](CC#N)CC(C)C | C12H22N2O2
